US07511152B2
To a solution of 4-chloro-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta-[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one (2.3 g, crude product from the preceding step, ˜6.1 mmol) in DMF (230 mL) were added 20% Pd(OH)2 on carbon (1 g) and 5% palladium on calcium carbonate (1 g) and the mixture was hydrogenated at atmospheric pressure. After 29 hours, additional 20% Pd(OH)2 on carbon (175 mg) and 5% palladium on calcium carbonate (175 mg) were added. After 24 hours more, the mixture was filtered through a pad of Celite®, washing thoroughly with EtOAc. The filtrate was partitioned between EtOAc and water which had been acidified with a small amount of 1N hydrochloric acid. The aqueous layer was thoroughly extracted with EtOAc and the combined organic layers were washed with 1N hydrochloric acid, water and brine. After drying over MgSO4, the solvent was removed under reduced pressure to give an oily solid which was dissolved in dichloromethane and evaporated to give a solid. Chromatography on silica gel (elution with 1:1 EtOAc/hexanes+0.1% HOAc followed by 99:99:2 EtOAc/hexanes/methanol+0.1% HOAc) gave 6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta-[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one as a pale yellow solid.

reactant | 4-chloro-6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta-[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one | ClC1=CC=2C=3C4(CC2C=2N=NNC21)CCC(C(C3C(F)(F)F)=O)C4 | C16H11ClF3N3O
solvent | DMF | 230 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(OH)2 on carbon | 1 g | [OH-].[OH-].[Pd+2]
catalyst | palladium on calcium carbonate | 1 g | [Pd] | Pd
catalyst | Pd(OH)2 on carbon | 175 mg | [OH-].[OH-].[Pd+2]
catalyst | palladium on calcium carbonate | 175 mg | [Pd] | Pd
product | 6-(trifluoromethyl)-3,9,10,11-tetrahydro-8,10a-methanocyclohepta-[1,2]indeno[4,5-d][1,2,3]triazol-7(8H)-one | FC(C=1C(C2CCC3(C1C=1C=CC4=C(N=NN4)C1C3)C2)=O)(F)F | C16H12F3N3O
